resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.991895
R2 0 n2 1.016259
C3 0 n4 5.75e-06
R4 n1 n3 0.994036
R5 n1 n5 1.008365
R6 n2 n3 1.002803
R7 n2 n6 0.997606
R8 n3 n7 0.999689
R9 n4 n5 0.996982
R10 n4 n6 0.990202
R11 n5 n7 1.004377
R12 n6 n7 0.986527
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
